US04548948
Preparation of 1-benzoyl-2,3-dimethylbenzene (D6)
To a stirred solution of 2,3-dimethylbenzoyl chloride (35 g, 208 mmol) at 0° in dry dichloroethane (80 ml) was added anhydrous aluminium chloride (27.7 g, 208 mmol) portionwise over two minutes. The mixture was stirred for fifteen minutes and dry benzene (40 ml) was added. After warming to room temperature over fifteen minutes, the mixture was heated to reflux for four hours. The dark solution was cooled, poured onto ice (200 ml) containing concentrated hydrochloric acid (20 ml) and extracted with ether (3×100 ml). The combined organic layers were washed with 10% sodium hydroxide (2×50 ml), 10% sodium carbonate (50 ml) and brine (50 ml). After drying the organic layer over sodium sulphate, the solvent was removed under reduced pressure and the red oil (36 g) so obtained was chromatographed (SiO2 (400 g) using petroleum ether (60°-80°) and chloroform (0-12%) as eluent). This gave the desired 1-benzoyl-2,3 -dimethylbenzene (18.2 g, 42%).

reactant | 2,3-dimethylbenzoyl chloride | 208 mmol, 35 g | CC1=C(C(=O)Cl)C=CC=C1C | C9H9ClO
reactant | aluminium chloride | 208 mmol, 27.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | dichloroethane | 80 ml | ClC(C)Cl | C2H4Cl2
product | 1-benzoyl-2,3-dimethylbenzene | 36 g | C(C1=CC=CC=C1)(=O)C1=C(C(=CC=C1)C)C | C15H14O
